US06953790B2
Step A. tert-Butyl cyclopropylmethyl[(2S)-2-hydroxy-2-phenylethyl]carbamate
(S)-Styrene oxide (4.83 g, 40.3 mmol) and cyclopropanemethylamine (4.00 g, 56.4 mmol) were dissolved in isopropyl alcohol (100 mL) and heated to reflux. After 8 h, the reaction was allowed to cool to ambient temperature and concentrated. Triethylamine (5.61 mL, 40.3 mmol) was added to a solution of the crude amine and di-tert-butyl dicarbonate (8.78 g, 40.3 mmol) in dichloromethane (100 mL). After 18 h, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→20% ethyl acetate/hexanes) gave the title compound (5.48 g).

reactant | (S)-Styrene oxide | 40.3 mmol, 4.83 g | C1[C@H](C2=CC=CC=C2)O1 | C8H8O
reactant | cyclopropanemethylamine | 56.4 mmol, 4.00 g | C1(CC1)CN | C4H9N
reactant | Triethylamine | 40.3 mmol, 5.61 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 40.3 mmol, 8.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | isopropyl alcohol | 100 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-Butyl cyclopropylmethyl[(2S)-2-hydroxy-2-phenylethyl]carbamate | 5.48 g | C1(CC1)CN(C(OC(C)(C)C)=O)C[C@H](C1=CC=CC=C1)O | C17H25NO3
